US06376515B2
To a solution of the compound of N-{4-chloro-2-[N-(5-chloro(2-pyridyl))carbamoyl]phenyl}(4-cyanophenyl)carboxamide (683 mg, 1.66 mmol) in anhydrous pyridine (10 ml) and triethyl amine (1 ml) was saturated with hydrogen sulfide gas at 0° C. The mixture was stirred at r.t. overnight. After the evaporated the solvent, the residue was dissolved in anhydrous acetone (5 ml) and iodomethane (1 ml, 16.6 mmol) was added. The mixture was stirred under reflux condition for 2 hrs. After the evaporation of solvent, the residue was dissolved in anhydrous methanol (5 ml) and added a solution of N-methylethylenediamine (0.732 ml, 8.3 mmol) and acetic acid (1.5 ml) in anhydrous methanol (5 ml).The mixture was stirred under reflux condition for 2 hrs. After the evaporation of solvent, the crude residue was purified by RP-HPLC to give N-{4-chloro-2-[N-(5-chloro(2-pyridyl))carbamoyl]phenyl}[4-(1-methyl(2-imidazolin-2-yl))phenyl]carboxamide as a white powder. MS found for C23H19Cl2N5O2 M+=468 (M+2)+=470.

reactant | N-{4-chloro-2-[N-(5-chloro(2-pyridyl))carbamoyl]phenyl}(4-cyanophenyl)carboxamide | 1.66 mmol, 683 mg | ClC1=CC(=C(C=C1)NC(=O)C1=CC=C(C=C1)C#N)C(NC1=NC=C(C=C1)Cl)=O | C20H12Cl2N4O2
reactant | hydrogen sulfide | S | H2S
reactant | iodomethane | 16.6 mmol, 1 ml | IC | CH3I
reactant | N-methylethylenediamine | 8.3 mmol, 0.732 ml | CNCCN | C3H10N2
solvent | pyridine | 10 ml | N1=CC=CC=C1 | C5H5N
solvent | triethyl amine | 1 ml | C(C)N(CC)CC | C6H15N
solvent | methanol | 5 ml | CO | CH4O
solvent | acetic acid | 1.5 ml | C(C)(=O)O | C2H4O2
product | N-{4-chloro-2-[N-(5-chloro(2-pyridyl))carbamoyl]phenyl}[4-(1-methyl(2-imidazolin-2-yl))phenyl]carboxamide | ClC1=CC(=C(C=C1)NC(=O)C1=CC=C(C=C1)C=1N(CCN1)C)C(NC1=NC=C(C=C1)Cl)=O | C23H19Cl2N5O2
